US04245097
A mixture of 3.62 g. of 4-(11-hydroxyundecylamino)benzoic acid and 25 ml. of ethanol-water (9:1) containing 400 mg. of sodium hydroxide is stirred for 4 hours. The mixture is filtered and the solid washed with ethanol-water and dried in vacuo to yield sodium 4-(11-hydroxyundecylamino)benzoate as a white, amorphous solid.

reactant | 4-(11-hydroxyundecylamino)benzoic acid | OCCCCCCCCCCCNC1=CC=C(C(=O)O)C=C1 | C18H29NO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol water | C(C)O.O
product | sodium 4-(11-hydroxyundecylamino)benzoate | OCCCCCCCCCCCNC1=CC=C(C(=O)[O-])C=C1.[Na+] | InChI=1S/C18H29NO3.Na/c20-15-9-7-5-3-1-2-4-6-8-14-19-17-12-10-16(11-13-17)18(21)22;/h10-13,19-20H,1-9,14-15H2,(H,21,22);/q;+1/p-1
